US05998439
Synthesis of 4-(1-(2-(5-hydroxymethylfur-2-ylmethyl)-4-(1H-benzimidazole-2-carbonyl)piperidine
Combine 1-(t-butoxycarbonyl)-4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine (5 mmol) and dioxane (25 mL). Slowly add a solution of hydrochloric acid in dioxane (1.25 mL, 4 M, 5 mmol). After 45 minutes, add diethyl ether and evaporate in vacuo to give a residue. Partition the residue between dichloromethane and saturated aqueous sodium bicarbonate solution. Separate the organic layer and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine | 5 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CC=1OC(=CC1)CO)C=CC=C2 | C24H29N3O5
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 5 mmol, 4 M, 1.25 mL | O1CCOCC1 | C4H8O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 2-(5-hydroxymethylfur-2-ylmethyl)-4-(1H-benzimidazole-2-carbonyl)piperidine | OCC1=CC=C(O1)CC1NCCC(C1)C(=O)C1=NC2=C(N1)C=CC=C2 | C19H21N3O3
